US06995144B2
(E)-3-[4-[2-(2-Fluorophenyl)vinyl]piperidino]methyl-2-methoxypyrazine
After dissolving 186 mg of 3-methoxypyrazine-2-carboxaldehyde and 230 mg of (E)-4-[2-(2-fluorophenyl)vinyl]piperidine in 3 ml of 1,2-dichloroethane, 0.08 ml of acetic acid and 373 mg of sodium triacetoxyborohydride were added and the mixture was stirred overnight at room temperature. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The extract was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (296 mg, 82% yield).

reactant | 3-methoxypyrazine-2-carboxaldehyde | 186 mg | COC=1C(=NC=CN1)C=O | C6H6N2O2
reactant | (E)-4-[2-(2-fluorophenyl)vinyl]piperidine | 230 mg | FC1=C(C=CC=C1)/C=C/C1CCNCC1 | C13H16FN
reactant | sodium triacetoxyborohydride | 373 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.08 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-[4-[2-(2-Fluorophenyl)vinyl]piperidino]methyl-2-methoxypyrazine | 296 mg, 82% yield | FC1=C(C=CC=C1)/C=C/C1CCN(CC1)CC=1C(=NC=CN1)OC | C19H22FN3O
